US05260316
6-Methoxy-2-(3-phenylpropyl)-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide (1.2 g, 4 mmol) is dissolved in CH2Cl2 (200 mL) and the resulting solution is cooled to -78°. Boron tribromide (1.1 mL, 12 mmol) is then added and the reaction is allowed to come to ambient temperature. After 12 hours the mixture is cooled to 0° and subsequently neturalized with saturated NaHCO3 solution (100 mL). The aqueous phase is then extracted with CH2Cl2 (1×100 mL). The combined organics are washed with saturated NaCl solution (2×200 mL), dried over Na2SO4 and concentrated in vacuo to give 6-hydroxy-2-(3-phenylpropyl)-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide.

reactant | 6-Methoxy-2-(3-phenylpropyl)-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | 4 mmol, 1.2 g | COC=1C=CC2=C(CCN(S2(=O)=O)CCCC2=CC=CC=C2)C1 | C18H21NO3S
reactant | Boron tribromide | 12 mmol, 1.1 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-2-(3-phenylpropyl)-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | OC=1C=CC2=C(CCN(S2(=O)=O)CCCC2=CC=CC=C2)C1 | C17H19NO3S
